US07208495B2
3-(6-fluoropyridine-3-yl)-5-(4-(4-methoxyphenyl)piperazin-1-yl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-ol
Using 4-(4-methoxyphenyl)-1-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-on-5-yl)piperazine and 5-bromo-2-fluoropyridine obtained in Reference Example 13, the title compound was obtained in the same manner as in Example 33. Yield 67% mp. 129–131° C. (hexane-ethyl acetate).

reactant | 4-(4-methoxyphenyl)-1-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-on-5-yl)piperazine | COC1=CC=C(C=C1)N1CCN(CC1)C=1C(=C(C2=C(C(C(O2)(C)C)=O)C1C)C)C | C24H30N2O3
reactant | 5-bromo-2-fluoropyridine | BrC=1C=CC(=NC1)F | C5H3BrFN
product | 3-(6-fluoropyridine-3-yl)-5-(4-(4-methoxyphenyl)piperazin-1-yl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-ol | Yield 67% | FC1=CC=C(C=N1)C1(C(OC2=C1C(=C(C(=C2C)C)N2CCN(CC2)C2=CC=C(C=C2)OC)C)(C)C)O | C29H34FN3O3
